US06194444B1
Production of 4-methyl-1,2,3-thiadiazol-5-ylmethyl acetate (Compound No.150)
In 10 ml of tetrahydrofuran were dissolved 0.50 g (3.8 mmol) of 4-methyl-1,2,3-thiadiazol-5--ylmethanol, 0.50 g (5.7 numol) of acetyl chloride and 0.80 g (7.6 mmol) of triethylamine. The solution thus obtained was stirred at room temperature for 18 hours. Then, a saturated aqueous solution of sodium chloride was added to the reaction mixture to stop the reaction, the objective product was extracted with ethyl acetate, the organic layer was washed with water and dried, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography using 3:1 mixture of n-hexane and ethyl acetate. Thus, 0.70 g of the objective compound was obtained.

reactant | 4-methyl-1,2,3-thiadiazol-5--ylmethanol | 3.8 mmol, 0.50 g | CC=1N=NSC1CO | C4H6N2OS
reactant | acetyl chloride | 0.50 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 7.6 mmol, 0.80 g | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-methyl-1,2,3-thiadiazol-5-ylmethyl acetate | 0.70 g, Yield: 100% | C(C)(=O)OCC1=C(N=NS1)C | C6H8N2O2S
